US07109186B2
Compound 832: 4-Hydroxy-5-oxo-1-[2-(tetrahydro-pyran-4-yl)-ethyl]-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
A mixture of paraformaldehyde (18 mg, 0.563 mmol) and 4-(2-aminoethyl)tetrahydropyran (65 mg, 0.5 mmol) in anhydrous methanol (3 mL) was warmed to 60° C. To the resulting clear homogeneous solution was added N-(3,4-dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide (172 mg, 0.5 mmol) and stirring continued for 18 h at 60° C. and an additional 6 h at room temperature. The crude reaction mixture was purified by preparative HPLC on a C18 column using water/methanol (0.1% TFA) as the eluent. The fractions containing the desired product were combined, the methanol removed under vacuum and the remaining aqueous solution extracted with ethyl acetate. The combined ethyl acetate extracts were dried over anhydrous Na2SO4, filtered and concentrated to give the title compound as a white solid (164 mg, 77% yield). 1HNMR (500 MHz, CDCl3) δ: 10.15 (1H, br s), 7.41 (1H, d, J=8.2 Hz), 7.35 (1H, s), 7.11 (1H, d, J=8.2 Hz), 4.60 (2H, s), 4.13 (2H, s), 3.93 (2H, dd, J=11, 3.7 Hz), 3.54 (2H, t, J=7.1 Hz), 3.34 (2H, t, J=11.9 Hz), 3.03 (3H, s), 1.65–1.24 (7H, m). HRMS calcd for C20H25Cl2N2O4 (M+H): 427.1191. found: 427.1179.

reactant | paraformaldehyde | 0.563 mmol, 18 mg | C=O | CH2O
reactant | 4-(2-aminoethyl)tetrahydropyran | 0.5 mmol, 65 mg | NCCC1CCOCC1 | C7H15NO
reactant | N-(3,4-dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide | 0.5 mmol, 172 mg | ClC=1C=C(CN(C(C=C2OC(OC2=O)(C)C)=O)C)C=CC1Cl | C15H15Cl2NO4
solvent | methanol | 3 mL | CO | CH4O
product | 4-Hydroxy-5-oxo-1-[2-(tetrahydro-pyran-4-yl)-ethyl]-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | 164 mg, 77% yield | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCC2CCOCC2)C)C=CC1Cl | C20H24Cl2N2O4
